US20010027196A1
5-Bromo-6-furan-2-yl-N4-(2-methoxy-ethyl)-pyrimidine-2,4-diamine
From 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine and 2-methoxyethylamine in dioxane. ES-MS m/e (%): 315 (M{81Br}+H+, 100), 313 (M{79Br}+H+, 80).

reactant | 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine | BrC=1C(=NC(=NC1S(=O)C)N)C=1OC=CC1 | C9H8BrN3O2S
reactant | 2-methoxyethylamine | COCCN | C3H9NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-Bromo-6-furan-2-yl-N4-(2-methoxy-ethyl)-pyrimidine-2,4-diamine | BrC=1C(=NC(=NC1C=1OC=CC1)N)NCCOC | C11H13BrN4O2
